US07935721B2
A. Preparation of Stock Solution of isobutyl (2′-oxospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-1′(2′H)-yl)acetyl carbonate
To a solution of (2′-oxospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-1′(2′H)-yl)acetic acid (0.30 g, 0.88 mmol) in dichloromethane (12.5 mL) was added N-methylmorpholine (0.09 g, 0.88 mmol) and iso-butyl chloroformate (0.12 g, 0.88 mmol) dropwise at 0° C. The mixture was stirred at 0° C. for 1.5 h and at ambient temperature for 3 h. This mixture was used as a mixed anhydride for the next step amide formation.

reactant | (2′-oxospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-1′(2′H)-yl)acetic acid | 0.88 mmol, 0.30 g | O=C1N(C2=CC=CC=C2C12COC=1C2=CC2=C(OCO2)C1)CC(=O)O | C18H13NO6
reactant | N-methylmorpholine | 0.88 mmol, 0.09 g | CN1CCOCC1 | C5H11NO
reactant | iso-butyl chloroformate | 0.88 mmol, 0.12 g | ClC(=O)OCC(C)C | C5H9ClO2
solvent | dichloromethane | 12.5 mL | ClCCl | CH2Cl2
product | isobutyl (2′-oxospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-1′(2′H)-yl)acetyl carbonate | C(OCC(C)C)(OC(CN1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O)=O)=O | C23H21NO8
